US06043248
1-Hydroxymethyl-5,6,7,8-tetrahydroisoquinoline (4.14 g, 25.4 mmole) is dissolved in 75 ml dioxane in a 200 ml one neck round bottom flask under nitrogen. The solution is treated with selenium dioxide (1.56 g, 14.0 mmole) and the reaction mixture is warmed to 80-85° C. for 2.5 h. The mixture is cooled to room temperature, is diluted with 125 ml dichloromethane and is filtered through celite. The filter cake is washed well with fresh dichloromethane and the filtrate is concentrated in vacuo to an amber oil. The crude material is chromatographed over 200 g silica gel (230-400 mesh), eluting with 1:5:4 acetone/chloroform/hexane while collecting 50 ml fractions. Fractions 11-18 are combined and concentrated to give 3.69 g (90%) of 5,6,7,8,-tetrahydroisoquinoline-1-carbaldehyde.

reactant | 1-Hydroxymethyl-5,6,7,8-tetrahydroisoquinoline | 25.4 mmole, 4.14 g | OCC1=NC=CC=2CCCCC12 | C10H13NO
reactant | selenium dioxide | 14.0 mmole, 1.56 g | [Se](=O)=O | O2Se
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | 5,6,7,8,-tetrahydroisoquinoline-1-carbaldehyde | 3.69 g, 90% | C1(=NC=CC=2CCCCC12)C=O | C10H11NO
